US04533655
A solution of isobutyl chloroformate (2.00 g.) in acetone (10 ml.) was added dropwise to a solution of N-benzyloxycarbonyl-N-methyl-O-benzyl-L-tyrosine (6.0 g.) and triethylamine (1.45 g.) in acetone (60 ml.) with stirring and cooling to -10° C. A solution of D-alanine methyl ester (2.22 g.) and triethylamine (1.45 g.) in chloroform (30 ml.) was then added. Stirring was continued for one hour at -10° C., then overnight at room temperature. The mixture was stripped of solvents. Water and ethyl acetate were added to the residue. The ethyl acetate layer was washed with water, saturated aqueous sodium bicarbonate, water again, aqueous citric acid, water again and saturated aqueous sodium chloride, dried over magnesium sulfate, filtered and stripped of ethyl acetate, affording (N-benzyloxycarbonyl-N-methyl-O-benzyl-L-tyrosyl)-D-alanine methyl ester (97% yield).

reactant | isobutyl chloroformate | 2.00 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-benzyloxycarbonyl-N-methyl-O-benzyl-L-tyrosine | 6.0 g | C(C1=CC=CC=C1)OC(=O)N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C | C25H25NO5
reactant | triethylamine | 1.45 g | C(C)N(CC)CC | C6H15N
reactant | D-alanine methyl ester | 2.22 g | COC([C@H](N)C)=O | C4H9NO2
reactant | triethylamine | 1.45 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (N-benzyloxycarbonyl-N-methyl-O-benzyl-L-tyrosyl)-D-alanine methyl ester | 97% yield | COC([C@H](NC([C@@H](N(C)C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O | C29H32N2O6
